US05599829
3-(5-Chloro- 2-methoxyphenyl)-2-ethylsulfanyl-3,5-dihydro-imidazol-4-one
A mixture of 2-[3-(5-chloro-2-methoxyphenyl)-thioureido]-acetamide (11.0 g) and ethyl iodide (12.5 g) in ethanol (400 mL) was heated at reflux for 4.5 hours. The solvent was evaporated. The residue was dissolved in chloroform (500 mL) and washed with water. The organic phase was dried over anhydrous MgSO4, then evaporated to dryness. The residue was crystallized from ethanol to give the title compound (6.1 g) as a tan solid, m.p. 113°-115° C. Anal. Calcd. for. C12H13Cl N2O2S: C, 50.61; H, 4.60; N,9.84. Found: C, 50.32; H, 4.59; N, 9.77. Mass spectrum (ESI+, [M+H]+) m/z 285/287. 1H-NMR (DMSO-d6; 400 MHz) 15 7.53 (m, 1H), 7.41 (d, 1H), 7.22 (d, 1H), 4.31 (dd, 2H), 3.77 (s, 3H), 3.05 (m, 2H), and 1.26 ppm (t, 3H).

reactant | 2-[3-(5-chloro-2-methoxyphenyl)-thioureido]-acetamide | 11.0 g | ClC=1C=CC(=C(C1)NC(NCC(=O)N)=S)OC | C10H12ClN3O2S
reactant | ethyl iodide | 12.5 g | C(C)I | C2H5I
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 3-(5-Chloro- 2-methoxyphenyl)-2-ethylsulfanyl-3,5-dihydro-imidazol-4-one | 6.1 g | ClC=1C=CC(=C(C1)N1C(=NCC1=O)SCC)OC | C12H13ClN2O2S
